US08541411B2
a) 4-bromo-2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole
To a solution of 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-amine (prepared following the same procedure as for Example 2, 1.1 g, 3 mmol) in aqueous HBr (50 mL) was added aqueous NaNO2 (214 mg, 3.1 mmol) solution dropwise at 0-5° C. After addition the mixture was stirred at 0° C. for 5 minutes, it was added to another solution of NaBr (927 mg, 9 mmol) in aqueous HBr (50 mL) dropwise at 60° C. The resulting mixture was then heated to 80° C. for 30 minutes and then cooled to room temperature. The solution pH was neutralized with aqueous NaHCO3 (600 mL) and extracted with DCM (500 mL×3). The combined organic layers were concentrated in vacuum and the residue was purified by silica gel chromatography eluted with petroleum ether:EtOAc=1:1 to give the desired product (725 mg, 55%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 2.55 ppm (s, 3H), 3.05 (t, 4H, J=4.8 Hz), 3.79 (t, 4H, J=4.8 Hz), 5.73 (s, 2H), 6.50 (dd, 1H, J=1.2, 7.5 Hz), 6.53 (d, 1H, J=1.8 Hz), 7.15 (d, 1H, J=1.8 Hz), 7.28 (t, 1H, J=7.5 Hz), 7.60-7.67 (m, 2H), 7.81 (d, 1H, J=8.4 Hz), 7.96 (d, 1H, J=7.5 Hz), 8.06 (d, 1H, J=8.4 Hz); LC-MS: m/e=436 [M+1]+.

reactant | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-amine | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2N)N2CCOCC2 | C23H24N4O
reactant | NaNO2 | 3.1 mmol, 214 mg | N(=O)[O-].[Na+]
reactant | NaBr | 9 mmol, 927 mg | [Na+].[Br-]
reactant | NaHCO3 | 600 mL | C(=O)(O)[O-].[Na+]
solvent | HBr | 50 mL | Br | BrH
solvent | HBr | 50 mL | Br | BrH
product | 4-bromo-2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole | 725 mg, 55% | BrC1=CC(=CC=2N(C(=NC21)C)CC2=CC=CC1=CC=CC=C21)N2CCOCC2 | C23H22BrN3O
